### PR TITLE
The Buchsbaum-Eisenbud-Horrocks conjecture

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
The statement of Buchsbaum Eisenbud Horrocks conjecture and Total Rank conjecture.
Add solved cases of Total Rank conjecture following arXiv/1702.02560

### CODE REVIEW

File: FormalConjectures/Arxiv/1702.02560/BuchsbaumEisenbudHorrocks.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/Arxiv/1702.02560/BuchsbaumEisenbudHorrocks.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/Arxiv/1702.02560/BuchsbaumEisenbudHorrocks.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+namespace Arxiv.«1702.02560»
+
+universe u
+
+open CategoryTheory RingTheory.Sequence
+
+variable (R : Type u) [CommRing R] [ConnectedSpace (PrimeSpectrum R)]
+    (M : ModuleCat.{u} R) [Module.Finite R M] [Nontrivial M]
+    (P : ProjectiveResolution M) (fin : ∃ n, ∀ i > n, Limits.IsZero (P.complex.X i))
+    (c : ℕ) (ceq : c = Ideal.height (Module.annihilator R M))
```
Comment (mo271) [inline FormalConjectures/Arxiv/1702.02560/BuchsbaumEisenbudHorrocks.lean]:
```suggestion
    (c : ℕ) (ceq : c = Ideal.height (Module.annihilator R M)) [∀ i, Module.Finite R (P.complex.X i)]
```

Is something like this needed?

Comment (Thmoas-Guan) [reply FormalConjectures/Arxiv/1702.02560/BuchsbaumEisenbudHorrocks.lean]: Sorry, I though a non-fg one would imply the ones after all non-fg, but it is not the case? Adding this would be correct choice.

**Comment by Thmoas-Guan** [comment]
BTW, is providing these enough for now? Or is it better to provide more on Betti number and minimal resolution?

**Comment by j2d9w5xtjn-png** [comment]
Reviewed at `40cc0112`. The `fin` and `ceq` hypotheses declared on L33–34 never appear in any of the four theorem types, so Lean drops them — Lean 4 only auto-includes `variable`s that a declaration actually mentions, plus instance binders whose types mention already-included variables. `[∀ i, Module.Finite R (P.complex.X i)]` survives for that second reason; `fin` and `ceq` are explicit binders and do not.

`#check @BuchsbaumEisenbudHorrocksConjecture` on this branch:

```
BuchsbaumEisenbudHorrocksConjecture : ∀ (R : Type u_1) [inst : CommRing R] [ConnectedSpace (PrimeSpectrum R)]
  (M : ModuleCat R) [Module.Finite R ↑M] [Nontrivial ↑M] (P : CategoryTheory.ProjectiveResolution M) (c : ℕ)
  [∀ (i : ℕ), Module.Finite R ↑(P.complex.X i)] [IsNoetherianRing R] (i : ℕ),
  ↑(c.choose i) ≤ Module.rank R ↑(P.complex.X i)
```

No `fin`, no `ceq`, and all four declarations are like this. So `c` is an arbitrary natural number with no link to `Ideal.height (Module.annihilator R M)`, and the resolution is not required to be finite. That makes both open statements false rather than merely too strong. Taking `R = ℚ`, `M = ℚ` and `P = ProjectiveResolution.self` — so `X 0 = ℚ` and `X (i + 1) = 0` — both of these compile against the branch:

```lean
noncomputable abbrev Mq : ModuleCat.{0} ℚ := ModuleCat.of ℚ ℚ
noncomputable abbrev Pq : ProjectiveResolution Mq := ProjectiveResolution.self Mq

theorem Pq_isZero_succ (n : ℕ) : IsZero (Pq.complex.X (n + 1)) := by
  rw [ProjectiveResolution.self_complex]
  exact HomologicalComplex.isZero_single_obj_X _ 0 Mq (n + 1) (by simp)

theorem Pq_rank_succ (n : ℕ) : Module.rank ℚ (Pq.complex.X (n + 1)) = 0 := by
  have := ModuleCat.subsingleton_of_isZero (Pq_isZero_succ n)
  exact rank_subsingleton' ℚ _

instance Pq_finite : ∀ i, Module.Finite ℚ (Pq.complex.X i)
  | 0 => by rw [ProjectiveResolution.self_complex]; exact inferInstanceAs (Module.Finite ℚ ℚ)
  | (n + 1) => by
      have := ModuleCat.subsingleton_of_isZero (Pq_isZero_succ n)
      exact Module.Finite.of_finite

-- at `c = 2`, `i = 1` the conjecture claims `2 ≤ 0`
theorem BEH_is_false : False := by
  have h := BuchsbaumEisenbudHorrocksConjecture ℚ Mq Pq 2 1
  rw [Pq_rank_succ 0] at h
  simp at h
```

and the same for `TotalRankConjecture ℚ Mq Pq 2`, which claims `4 ≤ 1`. (Here the resolution is finite, so it is specifically the missing `ceq` that bites; a non-finite `P` breaks it further.)

`include fin ceq in` before each theorem is enough — I checked that both hypotheses then reappear in the elaborated type:

```lean
include fin ceq in
@[category research open, AMS 13]
theorem BuchsbaumEisenbudHorrocksConjecture [IsNoetherianRing R] :
    ∀ i, c.choose i ≤ Module.rank R (P.complex.X i) := by
  sorry
```

**Separately, on the two solved variants.** L62 and L69 sum over `Finset.range (c + 1)`. Walker's theorem in the cited [arXiv:1702.02560](https://arxiv.org/abs/1702.02560) bounds the *total* Betti number `∑ᵢ βᵢ` over the whole (finite) resolution; truncating the sum at degree `c` is strictly stronger, because `∑_{i=0}^{c} C(c, i) = 2 ^ c` is exactly what the Buchsbaum–Eisenbud–Horrocks conjecture itself supplies in that range. So as written these two claim the open statement rather than the proved one, and should sum over the whole resolution — which `fin` is presumably there to make sense of.

*Reviewed with [Claude Code](https://claude.com/claude-code).*
